US07691900B2
More specifically, compound (I) where R1, R3, R4, R5 are methyl groups, R2 is a hydroxyl group, m=1 and n=13 can be prepared in the following manner: Oxacycloheptadecan-2-one reacts with dimethylhydroxylamine in the presence of trimethylaluminium at 0° C. and at atmospheric pressure to yield N-methoxy-N-methyl-16-hydroxyhexadecanamide. The hydroxy function of this compound is then protected in the presence of sodium hydride and benzyl bromide at −78° C. and atmospheric pressure. The resulting N-methoxy-N-methyl-16-benzyloxyhexadecanamide is subsequently treated with methyllithium at −78° C. and at atmospheric pressure to yield 17-benzyloxyheptadecan-2-one. This reacts with the vinylmagnesium to afford 18-benzyloxy-3-methyloctadec-1-en-3-ol that in the presence of trimethylhydroquinone, zinc chloride and concentrated hydrochloric acid yields 2-(15-benzyloxypentadecyl)-2,5,7,8-tetramethylchroman-6-ol. Catalytic hydrogenation of this compound in the presence of palladium on charcoal affords 2-(15-hydroxypentadecyl)-2,5,7,8-tetramethylchroman-6-ol.

reactant | Oxacycloheptadecan-2-one | O1C(CCCCCCCCCCCCCCC1)=O | C16H30O2
reactant | dimethylhydroxylamine | CN(O)C | C2H7NO
reactant | trimethylaluminium | C[Al](C)C
product | N-methoxy-N-methyl-16-hydroxyhexadecanamide | CON(C(CCCCCCCCCCCCCCCO)=O)C | C18H37NO3
